US05914328
5-n-propyl-3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine dihydrochloride
To a 1.08 g (4 mmol) sample of 5bromo-3-((1-methyl-2-(S)-pyrrolidinyl)-methoxy)pyridine, prepared as in Example 56a above, dissolved in 30 mL of dry THF and cooled to 0° C. was added 6.0 mL of n-propylmagnesium chloride and 13.0 mg of Ni(dppp)Cl, and the reaction mixture was stirred for 5 hours at room temperature. The reaction was quenched by addition of satd NH4Cl, and the mixture was extracted with chloroform. The solvent was dried over MgSO4 and removed under vacuum, and the residue was purified of a column of silica gel, eluting with 100: 1.25:0.025 chloroform:methanol:ammonium hydroxide. The product was converted into the title compound by treatment with HCl in ether according to Example 14c. MS (DCI/NH3) m/e: 235 (M+H)+. 1H NMR (D2O, 300 MHz) δ: 8.28 (s, 1H), 8.23 (s, 1H), 7.78 (m, 1H), 4.58 (dd, J=11.4, 3.7 Hz, 1H), 4.42 (dd, J=11.1, 5.9 Hz, 1H), 3.95 (m, 1H), 3.77 (m, 1H), 3.31-3.25 (m, 1H), 3.05 (s, 3H), 2.74 (t, J=7.3 Hz, 2H), 2.48-2.36 (m, 1H), 2.25-2.06 (m, 3H), 1.68 (m, 2H), 0.91 (t, J=7.4 Hz, 3H). Anal. Calc. for C14H22N2O·1.9 HCl·0.3 ether. C, 56.03; H, 8.22; N, 8.60; Found C, 56.35; H, 8.48; N, 8.73. [α]25D =-3.05° (methanol).

reactant | 5bromo-3-((1-methyl-2-(S)-pyrrolidinyl)-methoxy)pyridine | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | n-propylmagnesium chloride | 6.0 mL | C(CC)[Mg]Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-n-propyl-3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine dihydrochloride | Cl.Cl.C(CC)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C | InChI=1S/C14H22N2O.2ClH/c1-3-5-12-8-14(10-15-9-12)17-11-13-6-4-7-16(13)2;;/h8-10,13H,3-7,11H2,1-2H3;2*1H/t13-;;/m0../s1
